### PR TITLE
[Merged by Bors] - feat(Order): `OrderType.lift` and more order type API

### PR DESCRIPTION
**Pull request by YanYablonovskiy**
Adding the universe lifting operation to `OrderType` , addresses a 'TODO' .

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Types/Defs.lean [hunk 1]
```diff
@@ -236,10 +239,43 @@ theorem pos_iff_ne_zero {o : OrderType} : 0 < o ↔ o ≠ 0 where
...
+
+theorem out_lift_equiv (o : OrderType.{u}) : Nonempty ((lift.{v} o).ToType ≃o o.ToType) := by
+  rw [← type_toType o, ← type_uLift, type_toType]
+  exact ⟨toType_orderIso.trans ULift.orderIso⟩
+
 /-- `ω` is the first infinite ordinal, defined as the order type of `ℕ`. -/
--- TODO: define `OrderType.lift` and redefine this using it.
 @[expose]
-def omega0 : OrderType := type <| ULift ℕ
+def omega0 : OrderType := OrderType.lift <| type ℕ
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
def omega0 : OrderType := lift <| type ℕ
```

File: Mathlib/Order/Types/Defs.lean [hunk 2]
```diff
@@ -236,10 +239,43 @@ theorem pos_iff_ne_zero {o : OrderType} : 0 < o ↔ o ≠ 0 where
...
+  `lift.{u v} : OrderType.{v} → OrderType.{max v u}` -/
+@[pp_with_univ]
+def lift (o : OrderType.{v}) : OrderType.{max v u} :=
+  o.liftOn (δ := OrderType.{max v u}) (fun w _ ↦ type (ULift.{u,v} w)) (fun α _ β _ e ↦
+    type_congr <| ((ULift.orderIso.{u, v} (α := α)).trans (type_eq_type.mp e).some).trans
+    (ULift.orderIso.{u, v} (α := β)).symm)
+
+@[simp]
+theorem type_uLift : type (ULift.{v, u} α) = lift.{v} (type α) := by
+  rfl
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
theorem type_uLift : type (ULift.{v, u} α) = lift.{v} (type α) := rfl
```

File: Mathlib/Order/Types/Defs.lean [hunk 3]
```diff
@@ -236,10 +239,43 @@ theorem pos_iff_ne_zero {o : OrderType} : 0 < o ↔ o ≠ 0 where
...
+
+/-- An order type lifted to the same universe equals itself. -/
+@[simp]
+theorem lift_id (o : OrderType) : lift.{u, u} o = o :=
+  lift_id'.{u, u} o
+
+/-- A OrderType lifted to the zero universe equals itself. -/
+@[simp]
+theorem lift_uzero (o : OrderType.{u}) : lift.{0} o = o :=
+  lift_id'.{0, u} o
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean:261]: Does this not work? Strange
```suggestion
/-- An order type lifted to a lower or equal universe equals itself. -/
@[simp]
theorem lift_id' (o : OrderType.{max u v}) : lift.{u} o = o :=
  inductionOn o fun _ ↦ type_congr ULift.orderIso

/-- An order type lifted to the same universe equals itself. -/
theorem lift_id (o : OrderType) : lift.{u, u} o = o := by simp

/-- A OrderType lifted to the zero universe equals itself. -/
theorem lift_uzero (o : OrderType.{u}) : lift.{0} o = o := by simp
```

File: Mathlib/Order/Types/Defs.lean [hunk 4]
```diff
@@ -94,6 +94,9 @@ theorem type_toType (o : OrderType) : type o.ToType = o := surjInv_eq Quot.exist
 theorem type_eq_type : type α = type β ↔ Nonempty (α ≃o β) :=
   Quotient.eq'
 
+def toType_orderIso : (type β).ToType ≃o β :=
+  Nonempty.some <| type_eq_type.mp (by simp)
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]: Could you inline this?

File: Mathlib/Order/Types/Defs.lean [hunk 5]
```diff
@@ -236,10 +239,43 @@ theorem pos_iff_ne_zero {o : OrderType} : 0 < o ↔ o ≠ 0 where
...
+/-- A OrderType lifted to the zero universe equals itself. -/
+@[simp]
+theorem lift_uzero (o : OrderType.{u}) : lift.{0} o = o :=
+  lift_id'.{0, u} o
+
+@[simp]
+theorem lift_lift.{u_1} (o : OrderType.{u_1}) : lift.{w} (lift.{v} o) = lift.{max v w} o :=
+  inductionOn o fun _ => (ULift.orderIso.trans <| ULift.orderIso.trans ULift.orderIso.symm).type_congr
+
+theorem out_lift_equiv (o : OrderType.{u}) : Nonempty ((lift.{v} o).ToType ≃o o.ToType) := by
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
theorem nonempty_toType_lift_orderIso (o : OrderType.{u}) : Nonempty ((lift.{v} o).ToType ≃o o.ToType) := by
```

File: Mathlib/Order/Types/Defs.lean [hunk 6]
```diff
@@ -236,10 +239,43 @@ theorem pos_iff_ne_zero {o : OrderType} : 0 < o ↔ o ≠ 0 where
...
+/-- An order type lifted to a lower or equal universe equals itself. -/
+theorem lift_id' (o : OrderType.{max u v}) : lift.{u} o = o :=
+  inductionOn o fun _ ↦ type_congr ULift.orderIso
+
+/-- An order type lifted to the same universe equals itself. -/
+@[simp]
+theorem lift_id (o : OrderType) : lift.{u, u} o = o :=
+  lift_id'.{u, u} o
+
+/-- A OrderType lifted to the zero universe equals itself. -/
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
/-- An order type lifted to the zero universe equals itself. -/
```

File: Mathlib/Order/Types/Defs.lean (hunk 2 above)
Comment (YanYablonovskiy) [reply Mathlib/Order/Types/Defs.lean]: It is bizarre, the term `Eq.refl (type (ULift.{v, u} α))` is accepted, however `rfl` fails with 
```Not a definitional equality: the left-hand side
  type (ULift.{v, u} α)
is not definitionally equal to the right-hand side
  lift.{v, u} (type α)

Note: This theorem is exported from the current module. This requires that all definitions that need to be unfolded to prove this theorem must be exposed.```

File: Mathlib/Order/Types/Defs.lean (hunk 3 above)
Comment (YanYablonovskiy) [reply Mathlib/Order/Types/Defs.lean:261]: It doesn't seem to unfortunately, though the last one does.

**Comment by YanYablonovskiy** [comment]
-awaiting-author

File: Mathlib/Order/Types/Defs.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Order/Types/Defs.lean:261]: Then can you drop the last one?

File: Mathlib/Order/Types/Defs.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Order/Types/Defs.lean]: Is this because you are missing `@[expose]` on one of the relevant definitions?

File: Mathlib/Order/Types/Defs.lean (hunk 3 above)
Comment (YanYablonovskiy) [reply Mathlib/Order/Types/Defs.lean:261]: Sure, though now CI isn't happy about it being a `simp`

File: Mathlib/Order/Types/Defs.lean (hunk 2 above)
Comment (YanYablonovskiy) [reply Mathlib/Order/Types/Defs.lean]: Perhaps it is because `type` is `@[no_expose]`

File: Mathlib/Order/Types/Defs.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Order/Types/Defs.lean:261]: Yeah sorry, let's just revert to what you had originally

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Order/Types/Defs.lean [hunk 7]
```diff
@@ -236,10 +236,44 @@ theorem pos_iff_ne_zero {o : OrderType} : 0 < o ↔ o ≠ 0 where
     rw [← type_toType o]
     exact ⟨⟨Function.Embedding.ofIsEmpty, nofun⟩, fun ⟨f⟩ ↦ IsEmpty.elim inferInstance f.toFun⟩
 
+/-- The universe lift operation on order types. You can specify the universes explicitly with
+  `lift.{u v} : OrderType.{v} → OrderType.{max v u}` -/
+@[pp_with_univ]
+def lift (o : OrderType.{v}) : OrderType.{max v u} :=
+  o.liftOn (δ := OrderType.{max v u}) (fun w _ ↦ type (ULift.{u,v} w)) (fun α _ β _ e ↦
+    type_congr <| ((ULift.orderIso.{u, v} (α := α)).trans (type_eq_type.mp e).some).trans
+    (ULift.orderIso.{u, v} (α := β)).symm)
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: a) I think `α`, `β`, etc. are better names for types than `w`.
b) your type annotations can all be removed
```suggestion
  o.liftOn (fun α _ ↦ type (ULift α)) fun _α _ _β _ e ↦
    ((ULift.orderIso.trans (type_eq_type.mp e).some).trans ULift.orderIso.symm).type_congr
```

File: Mathlib/Order/Types/Defs.lean [hunk 8]
```diff
@@ -236,10 +236,44 @@ theorem pos_iff_ne_zero {o : OrderType} : 0 < o ↔ o ≠ 0 where
...
+
+@[simp]
+theorem type_uLift : type (ULift.{v, u} α) = lift.{v} (type α) := Eq.refl (type (ULift.{v, u} α))
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: I'm really starting to believe that my suggestion of not exposing definitions was a bad one.
```suggestion
theorem type_uLift : type (ULift.{v, u} α) = lift.{v} (type α) := (rfl)
```

File: Mathlib/Order/Types/Defs.lean [hunk 9]
```diff
@@ -236,10 +236,44 @@ theorem pos_iff_ne_zero {o : OrderType} : 0 < o ↔ o ≠ 0 where
...
+@[simp]
+theorem lift_uzero (o : OrderType.{u}) : lift.{0} o = o :=
+  lift_id'.{0, u} o
+
+@[simp]
+theorem lift_lift.{u_1} (o : OrderType.{u_1}) : lift.{u} (lift.{v} o) = lift.{max v u} o :=
+  inductionOn o fun _ ↦
+    (ULift.orderIso.trans <| ULift.orderIso.trans ULift.orderIso.symm).type_congr
+
+theorem nonempty_toType_lift_orderIso (o : OrderType.{u}) :
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: I don't think we should have these sorts of theorems on `ToType`. I think the lemma you want to have here is that an order isomorphism `α ≃o β` implies that `lift (type α) = lift (type β)` (and likewise for embeddings).

File: Mathlib/Order/Types/Defs.lean [hunk 10]
```diff
@@ -236,10 +236,49 @@ theorem pos_iff_ne_zero {o : OrderType} : 0 < o ↔ o ≠ 0 where
...
+theorem lift_lift.{u_1} (o : OrderType.{u_1}) : lift.{u} (lift.{v} o) = lift.{max v u} o :=
+  inductionOn o fun _ ↦
+    (ULift.orderIso.trans <| ULift.orderIso.trans ULift.orderIso.symm).type_congr
+
+theorem lift_type_eq_iff : lift (type α) = lift (type β) ↔ Nonempty (α ≃o β) := by
+  refine ⟨fun h ↦ ?_, fun ⟨h⟩ ↦ congrArg lift <| type_congr h⟩
+  rw [← type_uLift, ← type_uLift, type_eq_type] at h
+  exact ⟨(ULift.orderIso.symm.trans h.some).trans ULift.orderIso⟩
+
+theorem lift_type_lt_iff : lift (type α) ≤ lift (type β) ↔ Nonempty (α ↪o β) := by
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
theorem lift_type_le_iff : lift (type α) ≤ lift (type β) ↔ Nonempty (α ↪o β) := by
```

File: Mathlib/Order/Types/Defs.lean [hunk 11]
```diff
@@ -236,10 +236,49 @@ theorem pos_iff_ne_zero {o : OrderType} : 0 < o ↔ o ≠ 0 where
     rw [← type_toType o]
     exact ⟨⟨Function.Embedding.ofIsEmpty, nofun⟩, fun ⟨f⟩ ↦ IsEmpty.elim inferInstance f.toFun⟩
 
+/-- The universe lift operation on order types. You can specify the universes explicitly with
+  `lift.{u v} : OrderType.{v} → OrderType.{max v u}` -/
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
  `lift.{u, v} : OrderType.{v} → OrderType.{max v u}` -/
```

**Review by vihdzp — APPROVED** [review]
Otherwise LGTM!

File: Mathlib/Order/Types/Defs.lean [hunk 12]
```diff
@@ -236,10 +236,49 @@ theorem pos_iff_ne_zero {o : OrderType} : 0 < o ↔ o ≠ 0 where
...
 
+/-- The universe lift operation on order types. You can specify the universes explicitly with
+  `lift.{u, v} : OrderType.{v} → OrderType.{max v u}` -/
+@[pp_with_univ]
+def lift (o : OrderType.{v}) : OrderType.{max v u} :=
+  o.liftOn (fun α _ ↦ type (ULift α)) fun _α _ _β _ e ↦
+    ((ULift.orderIso.trans (type_eq_type.mp e).some).trans ULift.orderIso.symm).type_congr
+
+@[simp]
+theorem type_uLift : type (ULift.{v, u} α) = lift.{v} (type α) := (rfl)
```
Comment (b-mehta) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
theorem type_ulift : type (ULift.{v, u} α) = lift.{v} (type α) := (rfl)
```
for consistency with other `ULift` naming things

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+
